US06607791B1
25 g of 1,3-difluoro-5-(trans-4-vinylcyclohexyl) benzene was dissolved in 100 ml of tetrahydrofuran, and then cooled to a temperature of −70° C. To the solution was then added dropwise 88 ml of a 1.53 mol/l n-hexane solution of n-butyllithium at a rate such that the liquid temperature was kept at −60° C. After 30 minutes of stirring, carbon dioxide was then introduced into the system at a rate such that the liquid temperature was kept at −60° C. When heat generation was terminated, the temperature of the reaction solution was returned to room temperature. To the reaction solution was then added 50 ml of a 10% hydrochloric acid. The reaction solution was then extracted with 250 ml of ethyl acetate. The resulting organic phase was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvents were then distilled off to obtain 28.9 g of 2,6-difluoro-4-(trans-4-vinylcyclohexyl)benzoic acid.

reactant | 1,3-difluoro-5-(trans-4-vinylcyclohexyl) benzene | 25 g | FC1=CC(=CC(=C1)[C@@H]1CC[C@H](CC1)C=C)F | C14H16F2
reactant | n-hexane | 1.53 mol/l | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,6-difluoro-4-(trans-4-vinylcyclohexyl)benzoic acid | 28.9 g | FC1=C(C(=O)O)C(=CC(=C1)[C@@H]1CC[C@H](CC1)C=C)F | C15H16F2O2
